US07915270B2
4-(2-(7-Phenylheptanoyl)oxazol-5-yl)benzamide
4-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)benzamide. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (47 mg, 0.071 mmol) and 4-bromobenzamide following General Procedure A. Flash chromatography (30-50% EtOAc/hexanes) yielded the title compound as a white solid (29 mg, 83%): 1H NMR (CDCl3, 600 MHz) δ 7.67 (d, 2H, J=7.8 Hz), 7.57 (d, 2H, J=7.8 Hz), 7.38 (s, 1H), 7.25-7.24 (m, 2H), 7.15-7.14 (m, 3H), 6.16 (br s, 2H), 4.84 (t, 1H, J=6.0 Hz), 2.58 (t, 2H, J=7.5 Hz), 1.93-1.87 (m, 2H), 1.58-1.56 (m, 2H), 1.46-1.34 (m, 6H), 0.88 (s, 9H), 0.09 (s, 3H), −0.01 (s, 3H); 13C NMR (CDCl3, 150 MHz) δ 169.5, 143.6, 132.8, 129.9, 129.5, 129.2, 129.1, 129.0, 128.3, 127.7, 126.4, 125.0, 69.4, 37.3, 36.8, 32.2, 30.0, 26.6, 26.0, 19.1, −4.1, −4.2.

reactant | 4-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)benzamide | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=CC=C(C(=O)N)C=C1 | C29H40N2O3Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.071 mmol, 47 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 4-bromobenzamide | BrC1=CC=C(C(=O)N)C=C1 | C7H6BrNO
product | 4-(2-(7-Phenylheptanoyl)oxazol-5-yl)benzamide | 29 mg, 83% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=CC=C(C(=O)N)C=C1 | C23H24N2O3
